US03966953
SYNTHESIS OF 3-ETHYL-2-[O-(2-CHLOROETHYLCARBAMOYL)-OXIMINO]-4-THIAZOLIDINONE
A solution of 2.0 g, 3-ethyl-2-oximino-4-thiazolidinone in 100 ml chloroform, 50 ml acetonitrile, 1.32 g., 2-chloroethylisocyanate and 2 drops of triethyl amine was placed in a pressure bottle and left standing overnight at ambient temperature. Concentration yielded 3.0 g of product. Recrystallized from isopropylether - ethyl acetate, m.p. 99°-102°C.

reactant | 3-ethyl-2-oximino-4-thiazolidinone | C(C)N1C(SCC1=O)=NO | C5H8N2O2S
reactant | 2-chloroethylisocyanate | ClCCN=C=O | C3H4ClNO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | triethyl amine | 2 drops | C(C)N(CC)CC | C6H15N
product | 3-ETHYL-2-[O-(2-CHLOROETHYLCARBAMOYL)-OXIMINO]-4-THIAZOLIDINONE | 3.0 g | C(C)N1C(SCC1=O)=NOC(NCCCl)=O | C8H12ClN3O3S
